US04537889
C. Preparation of 2-(2,4-dimethoxyphenyl)imidazo[1,2-c]pyrimidine
A solution of 3 g. of 2-(2,4-dimethoxyphenyl)-6-chloro-imidazo[1,2-c]pyrimidine (free base) in ethyl acetate was treated with 1 g. of 5% palladium-on-carbon and subjected to hydrogenation until hydrogen uptake ceased. Two grams of triethylamine were added and hydrogenation was continued. When hydrogen uptake ceased, the catalyst was removed by filtration, and the ethyl acetate solution was washed with 300 ml. of a saturated sodium chloride solution. The organic solution was evaporated in vacuo, and the resulting residue was crystallized from ethyl acetate/ether to give 1.2 g. of the title product, M+ =255.

reactant | 2-(2,4-dimethoxyphenyl)-6-chloro-imidazo[1,2-c]pyrimidine | COC1=C(C=CC(=C1)OC)C=1N=C2N(CN(C=C2)Cl)C1 | C14H14ClN3O2
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | Two grams | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | 2-(2,4-dimethoxyphenyl)imidazo[1,2-c]pyrimidine | COC1=C(C=CC(=C1)OC)C=1N=C2N(C=NC=C2)C1 | C14H13N3O2
